US08008232B2
N-(3′-chloro-4′-fluorobiphenyl-2-yl)-1,3-dimethyl-1H-pyrazole-4-carboxamide
At room temperature, 0.47 g of 3′-chloro-4′-fluoro-2-aminobiphenyl and 0.82 g of bis(2-oxo-3-oxazolidinyl)phosphoryl chloride were added to a solution of 0.30 g of 1,3-dimethyl-1H-pyrazole-4-carboxylic acid and 0.43 g of triethylamine in 30 ml of dichloromethane. The mixture was stirred at room temperature for 12 hours. The mixture was then washed successively twice with dilute hydrochloric acid, twice with aqueous sodium bicarbonate solution and once with water. The organic phase was dried and concentrated. The crude product was purified by silica gel column chromatography using cyclohexane/methyl tert-butyl ether 1:2. This gave 0.56 g of the desired product as white crystals of m.p. 177-180° C.

reactant | 3′-chloro-4′-fluoro-2-aminobiphenyl | 0.47 g | ClC=1C=C(C=CC1F)C1=C(C=CC=C1)N | C12H9ClFN
reactant | bis(2-oxo-3-oxazolidinyl)phosphoryl chloride | 0.82 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | 1,3-dimethyl-1H-pyrazole-4-carboxylic acid | 0.30 g | CN1N=C(C(=C1)C(=O)O)C | C6H8N2O2
reactant | triethylamine | 0.43 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(3′-chloro-4′-fluorobiphenyl-2-yl)-1,3-dimethyl-1H-pyrazole-4-carboxamide | ClC=1C=C(C=CC1F)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C | C18H15ClFN3O
